US07582673B2
To a solution of crude 1-methanesulfonyl-4-methoxybenzene (8 mmol) in dry dichloromethane (20 mL), chlorosulfonic acid (1 mL) was added dropwise at 0° C. The reaction mixture was warm to room temperature followed by the addition of PCl5 (0.5 g). The resulting reaction mixture was refluxed for 1 h. After cooling to room temperature, the reaction mixture was poured into stirring ice water (50 mL). The water layer was then extracted with EtOAc (2×40 mL.) The combined organic extracts was washed with saturated sodium chloride aqueous solution (2×40 mL), dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified by flash column chromatography eluting with hexanes/EtOAc (3:1) to give 1.6 g of 5-methanesulfonyl-2-methoxybenzenesulfonyl chloride.

reactant | 1-methanesulfonyl-4-methoxybenzene | 8 mmol | CS(=O)(=O)C1=CC=C(C=C1)OC | C8H10O3S
reactant | PCl5 | 0.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | chlorosulfonic acid | 1 mL | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-methanesulfonyl-2-methoxybenzenesulfonyl chloride | 1.6 g | CS(=O)(=O)C=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C8H9ClO5S2
